US09353107B2
Step-ii (2S)-1-(4-(4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazin-1-yl)propan-2-ol
Using similar reaction conditions as described in step-i of example-82A, 3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-5-(4-(piperazin-1-yl)phenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine hydrochloride (197 mg, 0.294 mmol), DIPEA (76 mg, 0.588 mmol) and ethanol (4 mL) to get 167 mg (82.0%) of the titled compound. MS: m/z=693.7 (M+1).

reactant | 3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-5-(4-(piperazin-1-yl)phenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine hydrochloride | 0.294 mmol, 197 mg | Cl.FC=1C=C(CN2N=C(C(=C2C)C2=CN(C3=NC=C(C=C32)C3=CC=C(C=C3)N3CCNCC3)S(=O)(=O)C3=CC=C(C)C=C3)C)C=CC1
reactant | DIPEA | 0.588 mmol, 76 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | ethanol | 4 mL | C(C)O | C2H6O
product | (2S)-1-(4-(4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazin-1-yl)propan-2-ol | 167 mg, 82.0% | FC=1C=C(CN2N=C(C(=C2C)C2=CN(C3=NC=C(C=C32)C3=CC=C(C=C3)N3CCN(CC3)C[C@H](C)O)S(=O)(=O)C3=CC=C(C)C=C3)C)C=CC1 | C39H41FN6O3S
